US04900859
167 g of sodium methoxide are dissolved in 460 ml of methanol while stirring and cooling. Thereafter, 25 g of copper(I) chloride and 153 g of 3,5-dibromo-4-methylaminobenzonitrile as well as 76 ml of dimethylformamide are added. The mixture is heated to reflux for 4.5 hours, cooled to 25°-30° C. and treated with 450 ml of toluene, 450 ml of water and 7.5 g of active charcoal. The mixture is filtered and the organic phase is washed with a solution of 160 ml of water and 16 ml of acetic acid (pH about 6). The organic phase is separated and concentrated under reduced pressure, whereby there are obtained about 91 g of 3,5-dimethoxy-4-methylaminobenzonitrile in the form of an oily residue which crystallizes upon standing and which is used in this form in the next reaction step.

reactant | sodium methoxide | 167 g | C[O-].[Na+]
reactant | 3,5-dibromo-4-methylaminobenzonitrile | 153 g | BrC=1C=C(C#N)C=C(C1NC)Br | C8H6Br2N2
reactant | dimethylformamide | 76 ml | CN(C=O)C | C3H7NO
reactant | charcoal | 7.5 g | C | CH4
solvent | methanol | 460 ml | CO | CH4O
catalyst | copper(I) chloride | 25 g | [Cu]Cl
solvent | water | 450 ml | O | H2O
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-dimethoxy-4-methylaminobenzonitrile | about 91 g | COC=1C=C(C#N)C=C(C1NC)OC | C10H12N2O2
